2179-03-03 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   admitted overnight:
   -- continued volume resuscitation, CVPs satisfactory
   -- remains on 1 pressor
 0.04
   -- CVO2 sat 72%, so was not transfused
   -- remained hypoglycemic despite D10 gtt and amps of D50
   -- No respiratory distress
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Piperacillin - [**2179-3-3**] 02:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-3**] 12:12 AM
   Dextrose 50% - [**2179-3-3**] 05:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-3**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 80 (80 - 93) bpm
   BP: 99/53(65) {84/51(60) - 102/68(76)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 95% on 3L NC
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 19 (19 - 43)mmHg
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                    113 mL
                                                                  3,019 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                     13 mL
                                                                  2,919 mL
   Blood products:
   Total out:
                                                                     30 mL
                                                                    180 mL
   Urine:
                                                                     30 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     83 mL
                                                                  2,839 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen: elderly somewhat dissheveled male in NAD. Oriented x3.
   HEENT: PERRLA, MMM.
   Neck: LIJ in place, JVP no grossly elevated
   CV: irreg irregular vs regular with ectopy, normal S1, S2. No m/r/g.
   Chest: Resp unlabored, no accessory muscle use. +expiratory wheezing,
   no crackles
   Abd: obese, soft, NTND. No tenderness.
   Ext:  2+ edema b/l. Pt with black eschars and ulcerations on hand and
   feet (chronic)
   Skin: stasis dermatitis with erythematous changes over shins; dressing
   on R great toe c/d/i.
   Labs / Radiology
   184 K/uL
   8.9 g/dL
   30 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.9 mEq/L
   26 mg/dL
   102 mEq/L
   138 mEq/L
   28.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2179-3-2**]  09:37 PM
                             [**2179-3-2**]  10:05 PM
                             [**2179-3-3**]  12:54 AM
                             [**2179-3-3**]  01:11 AM
   WBC
   14.9
   Hct
   26.7
   28.5
   Plt
   184
   Cr
   1.4
   Glucose
   30
   30
   30
   Other labs: PT / PTT / INR:33.0/45.3/3.4, ALT / AST:41/129, Alk Phos /
   T Bili:221/2.7, Lactic Acid:2.8 mmol/L, Ca++:7.0 mg/dL, Mg++:1.2 mg/dL,
   PO4:3.8 mg/dL
   Imaging:
   [**3-2**] CXR # 1
   IMPRESSION:
   1. Marked cardiomegaly without evidence of congestive heart failure.
   2. Patchy opacities within both lung bases, which are nonspecific, and
   could be secondary to atelectasis, but infection is not completely
   excluded. Clinical correlation is recommended.
   [**3-2**] CXR #2 (line placement)
   IMPRESSION: Interval placement of left internal jugular central venous
   catheter tip with the tip terminating at the confluence of the
   brachiocephalic veins. No pneumothorax.
   Microbiology: [**3-2**] BCx - PND
   [**3-2**] UCx - PND
   Assessment and Plan
   Patient is a 73 yoM with h/o CAD, systolic CHF (EF 20%), s/p pacer and
   ICD, presents with fever, hypoglycemia, possible sepsis.
   .
   #. Possible Sepsis - evidence of hypoperfusion with lactate peak in ED
   of 8.1, improved to 4.1-->3.3 with fluids. Now down to 2.8 overnight.
   Unclear etiology but most likely source at this point appear pulmonary.
   Given antecedent URI type sxs and sick contact, flu can't be ruled out.
   -- will cover potential pulm source with HAP PNA antibiotics
   (Vanc/Zosyn)
   -- obtain sputum sample if possible
   -- f/u blood cultures
   -- r/o flu with nasopharyngeal aspirate
   -- supplemental IVF to maintain CVP >12 (currently at goal)
   -- once CVP 12, titrate levophed to MAP >65
   -- keep central SvO2 > 70% - currently 72%
   -- if falls below 70%, consider pRBC transfusion to 30, and then
   dobutamine to increase cardiac output
   .
   # Hypoglycemia - likely from ongoing sepsis
   -- D10 gtt with q1h FSG
   -- amps of D50 prn FSG <80
   .
   # Abnormal Diff - diff with 62 nRBCs, but no extreme anemia to provoke
   this. LDH and LFTs elevated, although chronic, but concern for
   underlying malignant process.
   -- would recheck, consider heme consult if not resolving
   .
   #. CAD s/p MI: No evidence of ischemia on EKG. One set of enzymes were
   negative int he ED but pt never complained of any chest pain.
   -- CE negative x1.
   -- continue ASA and statin, hold toprol and lisinopril
   -- monitor telemetry
   .
   #. chronic systolic CHF: does not appear to be in florid decompensated
   CHF at this time. He reported only mild SOB, and CXR did not reveal
   evidence of pulmonary edema.
   -- hold Toprol XL, lisinopril, and lasix given hypotension
   -- if concern for volume overload as a result of sepsis resuscitation,
   can consider morphine, nitro, BiPAP
   .
   #. A-fib. Pt is rate controlled with metoprolol and anti-coagulated on
   coumadin. Pt also has a pacer for tachy/brady.
   -- continue coumadin, trend INR daily
   -- holding BB for now given hypotension, can use IV prn if RVR
   .
   #. CRI - baseline Cr 1.1-1.5: Pt with Cr 1.4 on admission. A pre renal
   or ATN insult may develop given his hypotension.
   -- renally dose meds
   -- trend Cr
   .
   # Type II DM: pt currently hypoglycemic
   -- hold oral hypoglycemics
   -- FSG QIDACHS, cover with ISS when hypoglycemia resolves
   .
   # HTN: baseline SBP 100-110.
   -- hold all antihypertensives given sepsis
   .
   # Elevated LFTs: The patient has had chronically elevated LFTs
   and currently they are not significantly changed from prior. Felt
   likely secondary to congestive hepatopathy versus medication induced
   (was on amiodarone until recently)
   -- Prior RUQ U/S significant only for top-normal size spleen.
   -- prior abdominal CT w/ contrast unrevealing.
   .
   # Anemia: recent Fe studies did not reveal iron deficiency. On that
   admission there was also no evidence of hemolysis.
   -- guaiac stools, trend HCT daily
   -- transfuse per sepsis protocol
   .
   # asthma/COPD:
   -- cont nebs
   .
   # Gout -
   -- continue allopurinol
   .
   #. FEN: Diabetic/ Cardiac; replete lytes prn
   .
   #. Access:
   -- CV sepsis line
   .
   #. PPx:
   -- coumadin, PPI, bowel regimen
   .
   #. Code:
   -- FULL, has implanted ICD
   .
   # Contact:
   -- Wife: [**Telephone/Fax (1) 7594**]
   -- PCP [**Known firstname 1626**] [**Last Name (NamePattern1) 3959**] via phone: [**0-0-**]
   ICU Care
   Nutrition:
   Comments: DM diet
   Glycemic Control:  Comments: hypoglycemic
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   20 Gauge - [**2179-3-3**] 02:11 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2179-03-04 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- heme wanted Hb electrophoresis (for thalassemias given from [**Country 3832**]);
   SPEP/UPEP; retic count; likley out-patient work-up if he would need
   bx.  Final recs to be in chart today
   -- rapid respiratory panel negative
   -- liver wants a series of labs ([**Doctor First Name 1205**], [**Last Name (un) 5861**], AMA, IgG, IgM,
   alpha1-anti-tryp, cerulosplasmin); don't suspect primary liver dz
   though (see note)
   -- in early evening SBP was in 90's; gave 500 cc fluid bolus to get SBP
   > 100 per discussion on rounds
   -- remains on pressors
   -- glucose peristently low; needed to go up on rate of D10W --> was
   becoming hyponatremic; changed to D51/2NS --> D5NS w/ D50 boluses
   This AM, c/o LIJ TLC. Has stable SOB since admission. No pain.
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Piperacillin - [**2179-3-3**] 02:00 AM
   Vancomycin - [**2179-3-3**] 08:22 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-4**] 06:00 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-3**] 09:17 AM
   Dextrose 50% - [**2179-3-4**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-4**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 103 (77 - 103) bpm
   BP: 151/87(39) {85/30(39) - 151/110(117)} mmHg
   RR: 22 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 26 (5 - 55)mmHg
   Total In:
                                                                  7,871 mL
                                                                  1,781 mL
   PO:
   TF:
   IVF:
                                                                  7,571 mL
                                                                  1,681 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    370 mL
   Urine:
                                                                    850 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,021 mL
                                                                  1,411 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Gen: ornry + frustrated, Oriented x3.
   HEENT: PERRLA, MMM.
   Neck: LIJ in place, JVP no grossly elevated
   CV: irreg irregular, normal S1, S2. No m/r/g.
   Chest: +expiratory wheezing, with crackles at bases L > R
   Abd: obese, soft, NTND. No tenderness.
   Ext:  anasarca with scrotal edema.LE  eschars and ulcerations on hand
   and feet (chronic)
   Skin: stasis dermatitis with erythematous changes over shins; dressing
   on R great toe c/d/i.
   Labs / Radiology
   266 K/uL
   9.6 g/dL
   51 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.6 mEq/L
   24 mg/dL
   96 mEq/L
   128 mEq/L
   30.7 %
   22.6 K/uL
        [image002.jpg]
                             [**2179-3-2**]  09:37 PM
                             [**2179-3-2**]  10:05 PM
                             [**2179-3-3**]  12:54 AM
                             [**2179-3-3**]  01:11 AM
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
   WBC
   14.9
   10.7
   10.9
   17.4
   22.6
   Hct
   26.7
   28.5
   26.4
   27.6
   28.7
   30.7
   Plt
   184
   164
   172
   204
   266
   Cr
   1.4
   1.3
   1.2
   1.2
   0.9
   1.3
   Glucose
   30
   30
   30
   87
   113
   66
   113
   41
   51
   Other labs: PT / PTT / INR:40.8/53.7/4.4, ALT / AST:60/177, Alk Phos /
   T Bili:198/2.7, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.6 g/dL,
   LDH:537 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Lead level: 3
   Sulfonylurea: PND
   TSH WNL
   Random cortisol 26
   Imaging: [**3-3**] CXR
   FINDINGS: In comparison with study of [**3-2**], there is little change.
   Monitoring and support devices remain in place. Enlargement of the
   cardiac
   silhouette persists. Opacification is again seen in both lower lungs,
   especially behind the heart. This most likely is consistent with
   atelectasis
   and possible small effusions. In view of the clinical history, the
   possibility of superimposed consolidation cannot be definitely
   excluded.
   Lateral view would be most helpful if the condition of the patient
   persists.
   Microbiology: [**2179-3-3**] 10:32 am Rapid Respiratory Viral Screen &
   Culture
         Site: NASOPHARYNX      Source: Nasopharyngeal aspirate.
      Respiratory Viral Culture (Preliminary):
      Rapid Respiratory Viral Antigen Test (Final [**2179-3-3**]):
         Respiratory viral antigens not detected.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
   .
   [**2179-3-3**] 12:13 pm SPUTUM      Source: Expectorated.
                               **FINAL REPORT [**2179-3-3**]**
      GRAM STAIN (Final [**2179-3-3**]):
         <10 PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
   .
   [**3-2**] UCx: negative
   .
   [**3-2**] BCx: NGTD
   Assessment and Plan
   Patient is a 73 yoM with h/o CAD, systolic CHF (EF 20%), s/p pacer and
   ICD, presents with fever, hypoglycemia amd shock, possible sepsis.
   .
   #. Shock, possibly septic - evidence of hypoperfusion with lactate peak
   in ED of 8.1, improving to 4.1-->3.3 with fluids. Unclear etiology but
   most likely source at this point appears pulmonary, either viral or
   bacterial. Given antecedent URI type sxs and sick contact, flu can't be
   ruled out. Other sources of shock are less likely, including
   cardiogenic (PE not c/w this, sats ok on minimal O2), hypovolemic, or
   neurogenic shock. An endocrinopathy should also be ruled out.
   -- will cover potential pulm source with HAP PNA antibiotics
   (Vanc/Zosyn)
   -- sputum sample contaminated
   -- blood cultures, urine cultures are unrevealing
   -- RRV panel negative for flu
   -- when CVP >12, titrate levophed to MAP >65
   -- random cortisol mid 20
s essentially rules out adrenal insufficiency
   -- TSH 3.5
   -- given unclear source, will obtain torso CT with contrast and renal
   ppx
   .
   # Hypoglycemia
 may be from ongoing sepsis, but contributions from
   medication effect and poor hepatic/renal clearance of oral
   hypoglycemics vs. impaired hepatic gluconeogenesis are also possible.
   --  continue D5NS
   -- continue prn amps of D50 for FSG <80
   -- f/u sulfonylurea level
   -- would consult endocrine, thoughts on eval for tumor or
   paraneoplastic syndrime
   .
   # Microcytic Anemia: severely microcytic with MCV 68, with 62 nRBCs on
   diff. Recent Fe studies did not reveal iron deficiency. On that
   admission there was also no evidence of hemolysis.
   -- appreciate heme consult, working up for thalassemia given Italian
   heritage
   -- f/u HgB electrophoresis, SPEP/UPEP
   -- nRBCs persistently elevated but could be c/w stress reaction
   -- lead level WNL
   .
   # Elevated LFTs: The patient has had chronically elevated LFTs and
   currently they are not significantly changed from prior. Felt likely
   secondary to congestive hepatopathy versus medication induced (was on
   amiodarone until recently). Hyperbilirubinemia is largely direct,
   indicating hepatic dysfunction instead of hemolysis
   -- appreciate liver consult, f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**], [**Last Name (un) 5861**], AMA, IgG, IgM,
   alpha1-anti-tryp, cerulosplasmin
   -- hepatitis serologies and iron studies negative
   -- no evidence f EtOH abuse
   -- will d.c statin
   -- Prior RUQ U/S significant only for top-normal size spleen.
   -- prior abdominal CT w/ contrast unrevealing
   .
   #. CRI - baseline Cr 1.1-1.5: Pt with Cr 1.4 on admission. A pre renal
   or ATN insult may develop given his hypotension, but currently there is
   no acute change.
   -- renally dose meds, renal ppx for CT scans
   -- trend Cr
   -- no need for ulytes or sono given that yesterday
s PM labs with Cr
   0.9 are in error, GFR at baseline currently
   -- f/u renal sono
   .
   #. CAD s/p MI: No evidence of ischemia on EKG. One set of enzymes were
   negative int he ED but pt never complained of any chest pain.
   -- CE negative x1.
   -- continue ASA, hold toprol and lisinopril
   -- d/c statin given LFTs
   -- monitor on telemetry
   .
   #. chronic systolic CHF: does not appear to be in florid decompensated
   CHF at this time. He reported only mild SOB, and CXR did not reveal
   evidence of pulmonary edema
   -- will order echo today
   -- check BNP.
   -- hold Toprol XL, lisinopril, and lasix given hypotension
   -- if concern for volume overload as a result of sepsis resuscitation,
   can consider lasix, morphine, nitro, BiPAP
   .
   # HypoNa 0 likely secondary to excessive hypotonic fluid
   administration; is total body overloaded
   -- will diurese as tolerated once septic picture improving
   #. A-fib. Pt is rate controlled with metoprolol and anti-coagulated on
   coumadin. Pt also has a pacer for tachy/brady.
   -- continue coumadin, trend INR daily
   -- holding BB for now given hypotension, can use IV prn if RVR
   # Type II DM: pt currently hypoglycemic
   -- hold oral hypoglycemics
   -- f/u sulfonylurea level
   -- check A1c
   -- FSG QIDACHS, cover with ISS when hypoglycemia resolves
   .
   # HTN: baseline SBP 100-110.
   -- hold all antihypertensives given sepsis
   .
   # asthma/COPD:
   -- cont albuterol nebs
   .
   # Gout -
   -- continue allopurinol
   .
   #. FEN: Diabetic/ Cardiac; replete lytes prn
   .
   #. Access:
   -- CV sepsis line
   .
   #. PPx:
   -- coumadin, PPI, bowel regimen
   .
   #. Code:
   -- FULL, has implanted ICD
   .
   # Contact:
   -- Wife: [**Telephone/Fax (1) 7594**]
   -- PCP [**Known firstname 1626**] [**Last Name (NamePattern1) 3959**] via phone: [**0-0-**]
   ICU Care
   Nutrition:
   Comments: DM HH diet
   Glycemic Control:
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   20 Gauge - [**2179-3-3**] 02:11 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2179-03-04 11:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Seen by hepatology and hematology yesterday.  Remained hypoglycemic
   yesterday and overnight.  Has remained on pressors.
   No new complaints this AM.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Piperacillin - [**2179-3-3**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-4**] 06:00 AM
   Vancomycin - [**2179-3-4**] 10:08 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2179-3-4**] 04:50 AM
   Other medications:
   Colace, albuterol, flonase, allopurinol, ASA, lipitor, MVI, Vit B12,
   omeprazole, iron, fish oil, mesalamine, D5NS at 200cc.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-4**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 102 (79 - 106) bpm
   BP: 71/52(56) {71/30(39) - 151/111(117)} mmHg
   RR: 26 (14 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 19 (25 - 55)mmHg
   Total In:
                                                                  7,871 mL
                                                                  3,165 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  7,571 mL
                                                                  2,965 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    645 mL
   Urine:
                                                                    850 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,021 mL
                                                                  2,520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, Irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar, Wheezes :
   B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   266 K/uL
   51 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.6 mEq/L
   24 mg/dL
   96 mEq/L
   128 mEq/L
   30.7 %
   22.6 K/uL
        [image002.jpg]
                             [**2179-3-2**]  09:37 PM
                             [**2179-3-2**]  10:05 PM
                             [**2179-3-3**]  12:54 AM
                             [**2179-3-3**]  01:11 AM
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
   WBC
   14.9
   10.7
   10.9
   17.4
   22.6
   Hct
   26.7
   28.5
   26.4
   27.6
   28.7
   30.7
   Plt
   184
   164
   172
   204
   266
   Cr
   1.4
   1.3
   1.2
   1.2
   0.9
   1.3
   Glucose
   30
   30
   30
   87
   113
   66
   113
   41
   51
   Other labs: PT / PTT / INR:40.8/53.7/4.4, ALT / AST:60/177, Alk Phos /
   T Bili:198/2.7, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:3.1 mmol/L, Albumin:2.6 g/dL,
   LDH:537 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Lead level pending
   sulfonylurea level pending
   Random cortisol 29
   TSH 3.5
   Imaging: No new imaging today
   Microbiology: Resp viral panel:  Neg
   Sputum Cx: Contaminated
   UCx:  NGTD
   BCx:  NGTD
   Assessment and Plan
   73 yo M with h/o CHF, CKD, AF, and COPD presenting with fever,
   weakness, hypotension and persistent hypoglycemia in the setting of 8
   months of subacute/chronic decline characterized by weakness and
   recurrent falls.
   Shock:  Given fever in ED and rising WBC, concern if for septic
   etiology.  His warm extremities argue against cardiogenic shock despite
   low EF.  Sources for sepsis include pneumonia, skin infections.  No
   clear abdominal complaints.
     -Wean levophed to off as able but have low threshold for keeping on
   to maintain GFR
     -F/u sputum/Blood cultures.  Send stool for C diff.  Will hold on
   empiric coverage given lack of GI symptoms.
     -Reasonable to continue empiric broad coverage with Vanc/Zosyn for
   now
     -Monitor urine output and volume challenge as needed.
     -Check Abd/Chest CT and premedicate with NAC, IV bicarb
    Hypoglycemia:  Possibly multifactorial including impaired clearance of
   oral hypoglycemics +/- sepsis +/- impaired gluconeogenesis.  Other
   possibilities given his chronic history insulinoma vs paraneoplastic
   syndrome.
     -Continue D5NS for now
     -F/u sulfonylurea level
     -Check C-peptide level, endocrine consult.
    Anemia:  Microcytic with numerous nucleated RBC seen on diff.  Repeat
   diff still with increased nucleated RBCs.  Appreciate Heme input.
     -Hb electrophoresis, SPEP/UPEP/lead level pending
     -Pending above results will discuss any need for BM Bx with heme.
    Elevated LFT's:  Appears to be a chronic problem.  [**Name (NI) 317**] had normal
   imaging recently.  Negative viral panel in [**2178-6-11**].  Could be as
   simple as congestive hepatopathy but unlikely to explain decline over 8
   months without significant drop in EF.  Some concern that
   gluconeogenesis may be related to current hypoglycemia.  Tylenol level
   negative but drawn after he had been in the hospital for many hours.
     -Appreciate liver input, [**Doctor First Name 1205**], anti-smooth, anti-mitochondrial, A1AT,
   ceruloplasmin pending
   Hyponatremia:  In the setting of getting large amounts of D5W
   yesterday.  Now switched to D5NS
     -Trend sodiums today
     - [**Month (only) 60**] need renal input given large obligate volume need for low
   sugars. ? need for HD to help with clearance of glyburide
    Lactic Acidosis:  Resolved now.  Either related to shock/hypoperfusion
   or to metformin.
    CHF:  Holding lasix, Toprol, ACE-I at present., recheck echo today
    AF:  Will hold coumadin in case any biopsies (bone marrow, liver etc)
   are needed. If INR continues to trend up, will give Vitamin K.  BB on
   hold
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   20 Gauge - [**2179-3-3**] 02:11 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes

2179-03-05 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - SOB: got 40mg IV lasix in afternoon; another 40mg IV in evening with
   marginal output
   - Endocrine: no further recs, suspect sepsis and liver dysfunction as
   etiology.  Concentrated to D10 and decreased rate as BG was improving
   - Heme: no new recs, f/u on previous studies
   - Liver: no new recs, f/u on previous studes
   - CT torso: b/l patchy foci of ground glass opacities, small b/l
   effusions.  Moderate ascites, no fluid collection, Cholelithiasis
   without cholecystitis.  Reflux of IV contrast into hepatic and veins,
   concerning for R heart failure.
   -  Echo: EF 25%, 3+ MR, 3+ TR
   - Renal u/s: not yet read
   - BNP: 13,113
   - vomited x 2 (after baricat), ordered for zofran
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Piperacillin - [**2179-3-3**] 02:00 AM
   Vancomycin - [**2179-3-4**] 10:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-5**] 06:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2179-3-4**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-5**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 105 (97 - 116) bpm
   BP: 89/47(57) {71/43(56) - 140/111(99)} mmHg
   RR: 23 (16 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 22 (20 - 37)mmHg
   Total In:
                                                                  6,792 mL
                                                                    721 mL
   PO:
                                                                    500 mL
   TF:
   IVF:
                                                                  6,192 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    330 mL
   Urine:
                                                                  1,685 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,107 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Gen: tired, difficult to rouse
   HEENT: PERRLA, MMM.
   Neck: LIJ in place, JVP no grossly elevated
   CV: irreg irregular, normal S1, S2. No m/r/g.
   Chest: +expiratory wheezing, with crackles at bases L > R
   Abd: obese, soft, NTND. No tenderness.
   Ext:  anasarca with scrotal edema.LE  eschars and ulcerations on hand
   and feet (chronic)
   Skin: stasis dermatitis with erythematous changes over shins; dressing
   on R great toe c/d/i.
   Labs / Radiology
   247 K/uL
   9.2 g/dL
   149 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.0 mEq/L
   23 mg/dL
   98 mEq/L
   131 mEq/L
   29.6 %
   25.5 K/uL
        [image002.jpg]
                             [**2179-3-2**]  10:05 PM
                             [**2179-3-3**]  12:54 AM
                             [**2179-3-3**]  01:11 AM
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
                             [**2179-3-5**]  04:50 AM
   WBC
   14.9
   10.7
   10.9
   17.4
   22.6
   25.5
   Hct
   26.7
   28.5
   26.4
   27.6
   28.7
   30.7
   29.6
   Plt
   184
   164
   172
   [**Telephone/Fax (3) 7630**]
   Cr
   1.4
   1.3
   1.2
   1.2
   0.9
   1.3
   1.2
   Glucose
   30
   30
   87
   113
   66
   113
   41
   51
   149
   Other labs: PT / PTT / INR:56.1/54.6/6.6, ALT / AST:[**Telephone/Fax (1) 7631**], Alk Phos
   / T Bili:211/5.5, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:3.1 mmol/L, Albumin:2.6 g/dL,
   LDH:537 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   SPEP negative, lead negative
   Imaging: 1. Interval development of diffuse bilateral patchy
   ground-glass opacities
   within the lungs. Differential diagnosis includes ARDS, infectious
   processes, and drug reaction.
   2. Moderate-to-severe reflux of administered contrast into the IVC and
   hepatic veins is suggestive of right-sided heart failure which is
   relatively
   unchanged since prior study.
   3. Moderate degree of ascites with no definite fluid collection.
   4. Cholelithiasis with no evidence of cholecystitis.
   5. Moderate bilateral pleural effusions.
   6. Bilateral simple renal cysts.
   Microbiology: 1.21 sputum: contaminated
   [**3-2**] BCx: NGTD
   [**3-2**] UCx: negative
   Assessment and Plan
   Patient is a 73 yoM with h/o CAD, systolic CHF (EF 20%), s/p pacer and
   ICD, presents with fever, hypoglycemia amd shock, possible sepsis.
   .
   #. Shock, possibly septic - evidence of hypoperfusion with lactate peak
   in ED of 8.1, improving to 4.1-->3.3 with fluids. Unclear etiology but
   most likely source at this point appears pulmonary, either viral or
   bacterial. Given antecedent URI type sxs and sick contact, flu can't be
   ruled out. Other sources of shock are less likely, including
   cardiogenic (PE not c/w this, sats ok on minimal O2), hypovolemic, or
   neurogenic shock. An endocrinopathy should also be ruled out.
   -- continue to  cover potential pulm source with HAP PNA antibiotics
   (Vanc/Zosyn)
   -- blood cultures, urine cultures are unrevealing, sputum contaminated
   -- RRV panel negative for flu
   -- CT torso w/ contrast unrevealing for acute sepsis source or
   malignancy
   -- titrate down levophed to MAP >65
   -- consider dobutamine given EF 25% and e/o poor effective
   circulation/perfusion by physical exam
   -- random cortisol mid 20
s essentially rules out adrenal
   insufficiency, and TSH 3.5
   .
   # Elevated LFTs: Acute rise in AST/ALT to 1000s. Ruled out for tylenol
   and viral etiologies. [**Month (only) 60**] be attributable to shock in the setting of
   sepsis.
   -- appreciate liver consult, f/u additional recs
   -- in setting of possible shock liver, would strongly consider
   dobutamine to increase cardiac output
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**], [**Last Name (un) 5861**], AMA
   -- IgG, IgM WNL
   -- hepatitis serologies and iron studies negative
   -- Hyperbilirubinemia is largely direct, indicating hepatic dysfunction
   instead of hemolysis
   -- no evidence f EtOH abuse
   -- Prior RUQ U/S significant only for top-normal size spleen.
   -- would give 5mg vitamin K as unclear what is residual coumadin and
   what is liver dz
   # Hypoglycemia
 Improving. [**Month (only) 60**] be from ongoing sepsis, but
   contributions from medication effect and poor hepatic/renal clearance
   of oral hypoglycemics vs. impaired hepatic gluconeogenesis are also
   possible.
   -- appreciate endocrine recs, likely from sepsis and prolonged effect
   of sulfonylureas
   --  continue D10NS
   -- continue prn amps of D50 for FSG <80
   -- f/u sulfonylurea level, C-peptide, insulin level
   .
   # Microcytic Anemia: severely microcytic with MCV 68, with 62 nRBCs on
   diff. Recent Fe studies did not reveal iron deficiency. On that
   admission there was also no evidence of hemolysis.
   -- appreciate heme consult, working up for thalassemia given Italian
   heritage, f/u HgB electropheresis
   -- f/u HgB electrophoresis, SPEP WNL, f/u UPEP
   -- nRBCs persistently elevated but could be c/w stress reaction
   -- lead level WNL
   .
   #. CRI - baseline Cr 1.1-1.5: Pt with Cr 1.4 on admission. A pre renal
   or ATN insult may develop given his hypotension, but currently there is
   no acute change.
   -- renally dose meds,
   -- trend Cr
   -- no need for ulytes or sono given that yesterday
s PM labs with Cr
   0.9 are in error, GFR at baseline currently
   -- f/u renal sono
   .
   #. CAD s/p MI: No evidence of ischemia on EKG. One set of enzymes were
   negative int he ED but pt never complained of any chest pain.
   -- CE negative x1.
   -- continue ASA, hold toprol and lisinopril
   -- d/c statin given LFTs
   -- monitor on telemetry
   .
   #. chronic systolic CHF: does not appear to be in florid decompensated
   CHF at this time. He reported only mild SOB, and CXR did not reveal
   evidence of pulmonary edema
   -- echo shows EF 25% with 3+ MR [**First Name (Titles) **] [**Last Name (Titles) **]
   -- BNP 13.300, well above baseline
   -- avoid diuresesis if possible today given spike in LFTs, support BP
   with levo/dobutamine
   -- hold Toprol XL, lisinopril, and lasix given hypotension
   -- if concern for severe volume overload as a result of sepsis
   resuscitation, can consider lasix, morphine, nitro, BiPAP
   .
   # HypoNa
 Improving, likely secondary to excessive hypotonic fluid
   administration; is total body overloaded
   -- will diurese as tolerated once septic picture improving
   #. A-fib. Pt is rate controlled with metoprolol and anti-coagulated on
   coumadin. Pt also has a pacer for tachy/brady.
   -- holding coumadin, but INR increasing daily
   -- holding BB for now given hypotension, can use IV prn if RVR
   # Type II DM: pt currently hypoglycemic
   -- hold oral hypoglycemics
   -- f/u sulfonylurea level, CPEP, insulin leves
   -- check A1c
   -- FSG QIDACHS, cover with ISS when hypoglycemia resolves
   .
   # HTN: baseline SBP 100-110.
   -- hold all antihypertensives given sepsis
   .
   # asthma/COPD:
   -- cont albuterol nebs
   .
   # Gout -
   -- continue allopurinol
   .
   #. FEN: Diabetic/ Cardiac; replete lytes prn
   .
   #. Access:
   -- CV sepsis line
   .
   #. PPx:
   -- coumadin, PPI, bowel regimen
   .
   #. Code:
   -- FULL, has implanted ICD
   .
   # Contact:
   -- Wife: [**Telephone/Fax (1) 7594**]
   -- PCP [**Known firstname 1626**] [**Last Name (NamePattern1) 3959**] via phone: [**0-0-**]
   ICU Care
   Nutrition:
   Comments: DM HH diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   20 Gauge - [**2179-3-4**] 04:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2179-03-05 09:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Underwent Chest/Abd CT yesterday.  Pt subjectively felt dyspneic
   yesterday afternoon, received boluses of lasix.
   Seen by endocrine yesterday.
   Underwent TTE yesterday.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Piperacillin - [**2179-3-3**] 02:00 AM
   Vancomycin - [**2179-3-4**] 10:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-5**] 06:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2179-3-4**] 08:30 PM
   Other medications:
   colace, albuterol, flonase, allopurinol, MVI, ASA, iron, omeprezole,
   mucomyst, Vitamin B12.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-5**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (96.9
   HR: 104 (97 - 116) bpm
   BP: 114/49(60) {71/43(56) - 128/82(86)} mmHg
   RR: 15 (15 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 22 (20 - 37)mmHg
   Total In:
                                                                  6,792 mL
                                                                    887 mL
   PO:
                                                                    500 mL
   TF:
   IVF:
                                                                  6,192 mL
                                                                    887 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    480 mL
   Urine:
                                                                  1,685 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,107 mL
                                                                    407 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Sleepy
   Eyes / Conjunctiva: PERRL, Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar, Wheezes :
   Scattered b/L., Diminished: at bases B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Stasis dermatitis on shins.
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   247 K/uL
   149 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.0 mEq/L
   23 mg/dL
   98 mEq/L
   131 mEq/L
   29.6 %
   25.5 K/uL
        [image002.jpg]
                             [**2179-3-2**]  10:05 PM
                             [**2179-3-3**]  12:54 AM
                             [**2179-3-3**]  01:11 AM
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
                             [**2179-3-5**]  04:50 AM
   WBC
   14.9
   10.7
   10.9
   17.4
   22.6
   25.5
   Hct
   26.7
   28.5
   26.4
   27.6
   28.7
   30.7
   29.6
   Plt
   184
   164
   172
   [**Telephone/Fax (3) 7630**]
   Cr
   1.4
   1.3
   1.2
   1.2
   0.9
   1.3
   1.2
   Glucose
   30
   30
   87
   113
   66
   113
   41
   51
   149
   Other labs: PT / PTT / INR:56.1/54.6/6.6, ALT / AST:[**Telephone/Fax (1) 7631**], Alk Phos
   / T Bili:211/5.5, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:3.1 mmol/L, Albumin:2.6 g/dL,
   LDH:537 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: BNP [**Numeric Identifier 5249**]
   Lead level is normal
   SPEP normal
   UPEP pending
   Hb electrophoresis Pending
   [**Doctor First Name 1205**], AMA, [**Last Name (un) 5861**] pending
   Imaging: TTE:  LVEF 25%, 3+MR, 3+TR.
   Abd CT/Chest CT:  B/L GGO/effusions, refluxed contrast in the IVC,
   ascites.
   Microbiology: UCx:  Neg
   BCx:  NGTD
   Assessment and Plan
   73 yo M with h/o CHF, CKD, AF, and COPD presenting with fever,
   weakness, hypotension and persistent hypoglycemia in the setting of 8
   months of subacute/chronic decline characterized by weakness and
   recurrent falls.
   Shock:  Clinical scenario becoming more concerning for cardiogenic
   shock.  Although EF is not significantly different from before, 3+ MR
   suggests that his cardiac output is probably very limited.
     -Will attempt dopamine/ dobutamine trial today with diuretic
   support.  Follow central venous sat's, lactates, urine output.
     -Wean levophed to keep MAP's around 60 for afterload. Will likely
   need BiPAP to allow diuresis too
     -F/u sputum/Blood cultures.
     -Reasonable to continue empiric broad coverage with Vanc/Zosyn for
   now
     -F/u read on axillary collection seen on chest CT.
     -Will ask cardiology to see.  But will hold off on PA cath unless he
   is intubated
   Hypoxemia:  Respiratory status limited by cardiogenic pulmonary edema,
   pleural effusions, and abdominal distention
     -Diuresis as above with lasix drip
     -Trial of Bipap to also help hemodynamics
   Elevated LFT's:  Large increase in LFT's today.  Concern for both
   congestive hepatopathy and now shock liver due to poor cardiac output
     -Inotrope trial as above.
     -Vitamin K today.
     -Appreciate liver input, [**Doctor First Name 1205**], anti-smooth, anti-mitochondrial, A1AT,
   ceruloplasmin pending
   Hypoglycemia:  Possibly multifactorial including impaired clearance of
   oral hypoglycemics +/- sepsis +/- impaired gluconeogenesis.  Other
   possibilities given his chronic history insulinoma vs paraneoplastic
   syndrome.  Appreciate endocrine input.  Glucose needs appear to be
   improving.
     -Stop D5NS and monitor sugars
     -F/u sulfonylurea level and c peptide level
   Renal:  Maintaining reasonable GFR
     -Monitor urine output as above.
     -Continue NAC prophylaxis
    Anemia:  Microcytic with numerous nucleated RBC seen on diff.  Repeat
   diff still with increased nucleated RBCs.  Appreciate Heme input.
     -Hb electrophoresis, UPEP/lead level pending
     -Pending above results will discuss any need for BM Bx with heme.
    AF:  Holding BB,  if HR becomes an issue with dopamine will consider
   amiodarone.  Coumadin on hold for now.
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   20 Gauge - [**2179-3-4**] 04:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, will readdress with his wife at bedside
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2179-03-06 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   AM:
   - concern for cardiogenic shock, tried on dopa then dobutamine drips,
   begun on lasix gtt
   - weaned off D10 gtt, sugars better
   - Liver: increase in LFTs c/w shock liver, likely from poor forward
   flow
   PM:
   - family meeting, pt and wife would like DNR/DNI, home with hospice,
   unable to arrange yesterday
   - outside cardiologist came by, agrees with plan
   -overnight needed more and more morphine, intermittently
   agitated/confused
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-5**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-6**] 06:00 AM
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2179-3-5**] 10:45 AM
   Morphine Sulfate - [**2179-3-6**] 03:00 AM
   Other medications:
   Vanco/zosyn
   Dobutamine
   Levophed
   Lasix drip
   Flowsheet Data as of  [**2179-3-6**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 126 (104 - 137) bpm
   BP: 93/49(55) {80/39(55) - 137/87(93)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 268 (8 - 282)mmHg
   Total In:
                                                                  2,076 mL
                                                                    384 mL
   PO:
   TF:
   IVF:
                                                                  2,076 mL
                                                                    384 mL
   Blood products:
   Total out:
                                                                  2,295 mL
                                                                    640 mL
   Urine:
                                                                  2,295 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -219 mL
                                                                   -256 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 549 (549 - 549) mL
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///25/
   Ve: 7.1 L/min
   Physical Examination
   Gen: tired, difficult to rouse
   HEENT: PERRLA, MMM.
   Neck: LIJ in place, JVP no grossly elevated
   CV: irreg irregular, normal S1, S2. No m/r/g.
   Chest: +expiratory wheezing, with crackles at bases L > R
   Abd: obese, soft, NTND. No tenderness.
   Ext:  anasarca with scrotal edema.LE  eschars and ulcerations on hand
   and feet (chronic)
   Skin: stasis dermatitis with erythematous changes over shins; dressing
   on R great toe c/d/i.
   Labs / Radiology
   216 K/uL
   9.1 g/dL
   191 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   23 mg/dL
   98 mEq/L
   132 mEq/L
   28.9 %
   17.8 K/uL
        [image002.jpg]
                             [**2179-3-3**]  12:54 AM
                             [**2179-3-3**]  01:11 AM
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
                             [**2179-3-5**]  04:50 AM
                             [**2179-3-6**]  03:43 AM
   WBC
   14.9
   10.7
   10.9
   17.4
   22.6
   21.1
   17.8
   Hct
   28.5
   26.4
   27.6
   28.7
   30.7
   29.6
   28.9
   Plt
   184
   164
   172
   [**Telephone/Fax (3) 7630**]
   216
   Cr
   1.4
   1.3
   1.2
   1.2
   0.9
   1.3
   1.2
   0.9
   Glucose
   30
   30
   87
   113
   66
   113
   41
   51
   149
   191
   Other labs: PT / PTT / INR:39.4/52.0/4.3, ALT / AST:353
   (392)/655(1059), Alk Phos / T Bili:179(211)/5.8(5.5), Fibrinogen:280
   mg/dL, Lactic Acid:3.0 mmol/L (3.2, 3.7, 3.5 yest), Albumin:2.6 g/dL,
   LDH:598 IU/L (779), Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: Gran-Ct: [**Numeric Identifier 7650**]
   Imaging: No new imaging today
   Microbiology: [**2179-3-2**] BCx x 2: NGTD
   [**2179-3-3**] Sputum: canceled b/c UA contamination
   Assessment and Plan
   Patient is a 73 yoM with h/o CAD, systolic CHF (EF 20%), s/p pacer and
   ICD, presents with fever, hypoglycemia amd shock, possible sepsis.
   #. Shock, possibly septic - evidence of hypoperfusion with lactate peak
   in ED of 8.1, improving to 4.1-->3.3 with fluids. Unclear etiology but
   most likely source at this point appears pulmonary, either viral or
   bacterial. Given antecedent URI type sxs and sick contact, flu can't be
   ruled out. Other sources of shock are less likely, including
   cardiogenic (PE not c/w this, sats ok on minimal O2), hypovolemic, or
   neurogenic shock. An endocrinopathy should also be ruled out.
   -- continue to  cover potential pulm source with HAP PNA antibiotics
   (Vanc/Zosyn)
   -- blood cultures, urine cultures are unrevealing, sputum contaminated
   -- RRV panel negative for flu
   -- CT torso w/ contrast unrevealing for acute sepsis source or
   malignancy
   -- titrate down levophed to MAP >65
   -- consider dobutamine given EF 25% and e/o poor effective
   circulation/perfusion by physical exam
   -- random cortisol mid 20
s essentially rules out adrenal
   insufficiency, and TSH 3.5
   # Elevated LFTs: Acute rise in AST/ALT to 1000s. Ruled out for tylenol
   and viral etiologies. [**Month (only) 60**] be attributable to shock in the setting of
   sepsis.
   -- appreciate liver consult, f/u additional recs
   -- in setting of possible shock liver, would strongly consider
   dobutamine to increase cardiac output
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**], [**Last Name (un) 5861**], AMA
   -- IgG, IgM WNL
   -- hepatitis serologies and iron studies negative
   -- Hyperbilirubinemia is largely direct, indicating hepatic dysfunction
   instead of hemolysis
   -- no evidence f EtOH abuse
   -- Prior RUQ U/S significant only for top-normal size spleen.
   -- would give 5mg vitamin K as unclear what is residual coumadin and
   what is liver dz
   # Hypoglycemia
 Improving. [**Month (only) 60**] be from ongoing sepsis, but
   contributions from medication effect and poor hepatic/renal clearance
   of oral hypoglycemics vs. impaired hepatic gluconeogenesis are also
   possible.
   -- appreciate endocrine recs, likely from sepsis and prolonged effect
   of sulfonylureas
   --  continue D10NS
   -- continue prn amps of D50 for FSG <80
   -- f/u sulfonylurea level, C-peptide, insulin level
   # Microcytic Anemia: severely microcytic with MCV 68, with 62 nRBCs on
   diff. Recent Fe studies did not reveal iron deficiency. On that
   admission there was also no evidence of hemolysis.
   -- appreciate heme consult, working up for thalassemia given Italian
   heritage, f/u HgB electropheresis
   -- f/u HgB electrophoresis, SPEP WNL, f/u UPEP
   -- nRBCs persistently elevated but could be c/w stress reaction
   -- lead level WNL
   #. CRI - baseline Cr 1.1-1.5: Pt with Cr 1.4 on admission. A pre renal
   or ATN insult may develop given his hypotension, but currently there is
   no acute change.
   -- renally dose meds,
   -- trend Cr
   -- no need for ulytes or sono given that yesterday
s PM labs with Cr
   0.9 are in error, GFR at baseline currently
   -- f/u renal sono
   #. CAD s/p MI: No evidence of ischemia on EKG. One set of enzymes were
   negative int he ED but pt never complained of any chest pain.
   -- CE negative x1.
   -- continue ASA, hold toprol and lisinopril
   -- d/c statin given LFTs
   -- monitor on telemetry
   #. chronic systolic CHF: does not appear to be in florid decompensated
   CHF at this time. He reported only mild SOB, and CXR did not reveal
   evidence of pulmonary edema
   -- echo shows EF 25% with 3+ MR [**First Name (Titles) **] [**Last Name (Titles) **]
   -- BNP 13.300, well above baseline
   -- avoid diuresesis if possible today given spike in LFTs, support BP
   with levo/dobutamine
   -- hold Toprol XL, lisinopril, and lasix given hypotension
   -- if concern for severe volume overload as a result of sepsis
   resuscitation, can consider lasix, morphine, nitro, BiPAP
   # HypoNa
 Improving, likely secondary to excessive hypotonic fluid
   administration; is total body overloaded
   -- will diurese as tolerated once septic picture improving
   #. A-fib. Pt is rate controlled with metoprolol and anti-coagulated on
   coumadin. Pt also has a pacer for tachy/brady.
   -- holding coumadin, but INR increasing daily
   -- holding BB for now given hypotension, can use IV prn if RVR
   # Type II DM: pt currently hypoglycemic
   -- hold oral hypoglycemics
   -- f/u sulfonylurea level, CPEP, insulin leves
   -- check A1c
   -- FSG QIDACHS, cover with ISS when hypoglycemia resolves
   # HTN: baseline SBP 100-110.
   -- hold all antihypertensives given sepsis  .
   # asthma/COPD:
   -- cont albuterol nebs
   # Gout -
   -- continue allopurinol
   #. FEN: Diabetic/ Cardiac; replete lytes prn
   #. Access:
   -- CV sepsis line
   #. PPx:
   -- coumadin, PPI, bowel regimen
   #. Code:
   -- FULL, has implanted ICD
   # Contact:
   -- Wife: [**Telephone/Fax (1) 7594**]
   -- PCP [**Known firstname 1626**] [**Last Name (NamePattern1) 3959**] via phone: [**0-0-**]
   ICU Care
   Nutrition:
   Comments: DM HH diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   20 Gauge - [**2179-3-4**] 04:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Comments: Regular / HH diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2179-03-06 10:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extensive family meeting yesterday as outlined by Dr.[**Name (NI) 7652**] event
   note from yesterday.
   During the day/overnight, tolerated dobutamine and lasix trial
   yesterday with improvement in urine output/lactates
   Overnight, periods of agitation, removing O2 and telemetry leads. Given
   some doses of morphine for dyspnea
   Dobutamine decreased overnight due to tachycardia (140's)
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-6**] 06:00 AM
   Vancomycin - [**2179-3-6**] 10:16 AM
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Furosemide (Lasix) - 12 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2179-3-5**] 10:45 AM
   Morphine Sulfate - [**2179-3-6**] 08:09 AM
   Other medications:
   Colace, albuterol, flonase, allopurinol, ASA, omeprazole, MVI,
   mesalamine, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-6**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 122 (108 - 137) bpm
   BP: 114/68(73) {80/39(55) - 137/81(90)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
   CVP: 18 (8 - 282)mmHg
   Total In:
                                                                  2,076 mL
                                                                    673 mL
   PO:
   TF:
   IVF:
                                                                  2,076 mL
                                                                    673 mL
   Blood products:
   Total out:
                                                                  2,295 mL
                                                                    940 mL
   Urine:
                                                                  2,295 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -219 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 6L
   SpO2: 96%
   ABG: ///25/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), S3, S4, (Murmur: No(t)
   Systolic, No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Hypoactive BS
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   216 K/uL
   191 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   23 mg/dL
   98 mEq/L
   132 mEq/L
   28.9 %
   17.8 K/uL
        [image002.jpg]
                             [**2179-3-3**]  12:54 AM
                             [**2179-3-3**]  01:11 AM
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
                             [**2179-3-5**]  04:50 AM
                             [**2179-3-6**]  03:43 AM
   WBC
   14.9
   10.7
   10.9
   17.4
   22.6
   21.1
   17.8
   Hct
   28.5
   26.4
   27.6
   28.7
   30.7
   29.6
   28.9
   Plt
   184
   164
   172
   [**Telephone/Fax (3) 7630**]
   216
   Cr
   1.4
   1.3
   1.2
   1.2
   0.9
   1.3
   1.2
   0.9
   Glucose
   30
   30
   87
   113
   66
   113
   41
   51
   149
   191
   Other labs: PT / PTT / INR:39.4/52.0/4.3, ALT / AST:353/655, Alk Phos /
   T Bili:179/5.8, Differential-Neuts:93.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:280 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:2.6 g/dL, LDH:598 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.3
   mg/dL
   Imaging: No new imaging
   Microbiology: BCx:  NGTD
   Assessment and Plan
   73 yo M with h/o CHF, CKD, AF, and COPD presenting with fever,
   weakness, hypotension and persistent hypoglycemia in the setting of 8
   months of subacute/chronic decline characterized by weakness and
   recurrent falls.
   Shock:  Clinical scenario more concerning for cardiogenic shock.
   Although EF is not significantly different from before, 3+ MR suggests
   that his cardiac output is probably very limited.
     -Will continue with dobutamine and lasix drip for now.  Unfortunately
   his dyspnea is requiring increasing doses of morphine.  If edema is not
   improved, it is likely that he will not be able to return home but
   would instead pass away in the hospital.
     -Reasonable to continue empiric broad coverage with Vanc/Zosyn for
   now
     -Appreciate Dr.[**Name (NI) 7653**] input
   Hypoxemia:  Respiratory status limited by cardiogenic pulmonary edema,
   pleural effusions, and abdominal distention
     -Diuresis as above with lasix drip
     -Continue morphine PRN for comfort
    Elevated LFT's:  Concern for both congestive hepatopathy and now shock
   liver due to poor cardiac output. LFT's trending down today with
   inotropes.
     -Continue to trend for now..
    Hypoglycemia:  Blood sugars now normal off sugar infusions.  Likely
   related to med effect/poor clearance.
   Anticoagulation:  Received Vitamin K yesterday,  INR still 4.4.  No
   plans for FFP to avoid volume.
    Renal:  Maintaining reasonable GFR
     -Monitor urine output as above, goal is net negative today.
    AF:  Holding BB,  if HR becomes an issue with dopamine will consider
   amiodarone.  Coumadin to hold for now.
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2179-03-07 08:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- no major changes; remains on dobutamine/levophed & lasix drips
   -- had a difficult time getting him as negative as hoped for
   -- wife was around, but I didn't have a chance to talk to her b/c of
   very active afternoon; no change in course during day
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-6**] 07:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-6**] 10:00 PM
   Infusions:
   Furosemide (Lasix) - 16 mg/hour
   Dobutamine - 2 mcg/Kg/min
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2179-3-7**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-7**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.3
   HR: 135 (122 - 137) bpm
   BP: 111/65(75) {107/54(61) - 131/78(88)} mmHg
   RR: 24 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
    CVP: 19 (17 - 22)mmHg
   Total In:
                                                                  1,667 mL
                                                                    387 mL
   PO:
   TF:
   IVF:
                                                                  1,667 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  1,995 mL
                                                                    400 mL
   Urine:
                                                                  1,995 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -328 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   9.1 g/dL
   184 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   22 mg/dL
   99 mEq/L
   133 mEq/L
   29.3 %
   15.0 K/uL
        [image002.jpg]
                             [**2179-3-3**]  01:11 AM
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
                             [**2179-3-5**]  04:50 AM
                             [**2179-3-6**]  03:43 AM
                             [**2179-3-7**]  02:23 AM
   WBC
   10.7
   10.9
   17.4
   22.6
   21.1
   17.8
   15.0
   Hct
   26.4
   27.6
   28.7
   30.7
   29.6
   28.9
   29.3
   Plt
   164
   172
   204
   266
   247
   216
   221
   Cr
   1.3
   1.2
   1.2
   0.9
   1.3
   1.2
   0.9
   0.9
   Glucose
   30
   87
   113
   66
   113
   41
   51
   149
   191
   184
   Other labs: PT / PTT / INR:27.5/49.2/2.8, ALT / AST:353/655, Alk Phos /
   T Bili:179/5.8, Differential-Neuts:93.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:280 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:2.6 g/dL, LDH:598 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR:
   Significant interval worsening in the right lung consolidation has been
   demonstrated currently involving the right upper and right lower lobe.
   The
   patient also has interval developed some degree of pulmonary edema.
   Bibasilar
   consolidations have progressed. The heart size is big. Bilateral
   pleural
   effusions cannot be excluded.
   Microbiology: Blood 1/20: NGTD
   Urine [**3-2**]: NGTD
   Sputum [**3-3**]: contaminated
   Resp screen: Neg
   Assessment and Plan
   Patient is a 73 yoM with h/o CAD, systolic CHF (EF 20%), s/p pacer and
   ICD, presents with fever, hypoglycemia amd shock, possible sepsis.
   #. Shock: etiology septic vs cardiogenic.   WBC elevated, although
   clinical picture more consistent witih cardiogenic shock.  Currently on
   both levophed and dobutamine.   Tachycardic on the dobutamine.  If
   sepsis, pulm source most likely, all other cultures have been negative.
   -- continue to  cover potential pulm source with HAP PNA antibiotics
   (Vanc/Zosyn)
   -- blood cultures, urine cultures are unrevealing, sputum contaminated
   -- RRV panel negative for flu
   -- CT torso w/ contrast unrevealing for acute sepsis source or
   malignancy
   -- continues on levophed and dobutamine given EF 25% and e/o poor
   effective circulation/perfusion by physical exam
   -- cardiology c/s: Dr [**Last Name (STitle) 3959**], no further recommendations at this time
   -- random cortisol mid 20
s essentially rules out adrenal
   insufficiency, and TSH 3.5
   # Elevated LFTs: Acute rise in AST/ALT to 1000, now down slightlys.
   Ruled out for tylenol and viral etiologies. [**Month (only) 60**] be attributable to
   shock in the setting of sepsis.
   -- appreciate liver consult, f/u additional recs
   -- in setting of possible shock liver, on dobutamine to increase
   cardiac output
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**], [**Last Name (un) 5861**], AMA
   -- IgG, IgM WNL
   -- hepatitis serologies and iron studies negative
   -- Hyperbilirubinemia is largely direct, indicating hepatic dysfunction
   instead of hemolysis
   -- no evidence of EtOH abuse
   -- Prior RUQ U/S significant only for top-normal size spleen.
   -- recieved Vit K with some improvement in INR
   # Hypoglycemia
 Improving. [**Month (only) 60**] be from ongoing sepsis, but
   contributions from medication effect and poor hepatic/renal clearance
   of oral hypoglycemics vs. impaired hepatic gluconeogenesis are also
   possible.
   -- appreciate endocrine recs, likely from sepsis and prolonged effect
   of sulfonylureas
   --  of dextrose gtt
   -- continue prn amps of D50 for FSG <80
   -- f/u sulfonylurea level, C-peptide, insulin level
   # Microcytic Anemia: severely microcytic with MCV 68, with 62 nRBCs on
   diff. Recent Fe studies did not reveal iron deficiency. On that
   admission there was also no evidence of hemolysis.
   -- appreciate heme consult, working up for thalassemia given Italian
   heritage, f/u HgB electropheresis
   -- f/u HgB electrophoresis, SPEP WNL, f/u UPEP
   -- nRBCs persistently elevated but could be c/w stress reaction
   -- lead level WNL
   #. CRI - baseline Cr 1.1-1.5: Pt with Cr 1.4 on admission. A pre renal
   or ATN insult may develop given his hypotension, but currently there is
   no acute change.
   -- renally dose meds
   -- trend Cr
   -- GFR at baseline currently
   -- renal sono: no hydronephrosis, trace ascites
   #. CAD s/p MI: No evidence of ischemia on EKG. One set of enzymes were
   negative int he ED but pt never complained of any chest pain.
   -- CE negative
   -- continue ASA, hold toprol and lisinopril
   -- d/c statin given LFTs
   -- monitor on telemetry
   #. chronic systolic CHF: does not appear to be in florid decompensated
   CHF at this time. He reported only mild SOB, and CXR did not reveal
   evidence of pulmonary edema
   --  echo shows EF 25% with 3+ MR [**First Name (Titles) **] [**Last Name (Titles) **]
   -- BNP 13.300, well above baseline
   -- on lasix gtt, support BP with levo/dobutamine
   -- hold Toprol XL, lisinopril, and lasix given hypotension
   # HypoNa
 Improving, likely secondary to excessive hypotonic fluid
   administration; is total body overloaded
   -- diuresing with lasix gtt
   #. A-fib. Pt is rate controlled with metoprolol and anti-coagulated on
   coumadin. Pt also has a pacer for tachy/brady.
   -- holding coumadin, INR still therapeutic
   -- holding BB for now given hypotension, can use IV prn if RVR
   # Type II DM: pt currently hypoglycemic
   -- hold oral hypoglycemics
   -- f/u sulfonylurea level, CPEP, insulin leves
   -- A1C < 6
   -- FSG QIDACHS, cover with gentle ISS
   # HTN: baseline SBP 100-110.
   -- hold all antihypertensives given pressor requirement.
   # asthma/COPD:
   -- cont albuterol nebs
   # Gout -
   -- continue allopurinol
   #. FEN: Diabetic/ Cardiac; replete lytes prn
   #. Access:
   -- CV sepsis line
   #. PPx:
   -- coumadin, PPI, bowel regimen
   #. Code:
   -- DNR/DNI; has implanted ICD
   # Contact:
   -- Wife: [**Telephone/Fax (1) 7594**]
   -- PCP [**Known firstname 1626**] [**Last Name (NamePattern1) 3959**] via phone: [**0-0-**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2179-03-07 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Maintained on dobutamine and lasix drip yesterday.  Levophed weaned
   overnight, currently off.  Required morphine intermittently for
   dyspnea.  A little more interactive today.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-6**] 07:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-6**] 10:00 PM
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2179-3-7**] 05:00 AM
   Other medications:
   Colace, Albuterol, ASA, allopurinol, MVI, Vitamin B12, omeprazole,
   iron, mesalamine, RISS, fish oil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-7**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.3
C (95.6
   HR: 127 (125 - 137) bpm
   BP: 104/44(59) {101/44(59) - 131/78(88)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
   CVP: 20 (17 - 25)mmHg
   Total In:
                                                                  1,667 mL
                                                                    508 mL
   PO:
   TF:
   IVF:
                                                                  1,667 mL
                                                                    508 mL
   Blood products:
   Total out:
                                                                  1,995 mL
                                                                    570 mL
   Urine:
                                                                  1,995 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -328 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3L
   SpO2: 91%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic), distant HS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar, Wheezes :
   B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   221 K/uL
   184 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   22 mg/dL
   99 mEq/L
   133 mEq/L
   29.3 %
   15.0 K/uL
        [image002.jpg]
                             [**2179-3-3**]  01:11 AM
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
                             [**2179-3-5**]  04:50 AM
                             [**2179-3-6**]  03:43 AM
                             [**2179-3-7**]  02:23 AM
   WBC
   10.7
   10.9
   17.4
   22.6
   21.1
   17.8
   15.0
   Hct
   26.4
   27.6
   28.7
   30.7
   29.6
   28.9
   29.3
   Plt
   164
   172
   204
   266
   247
   216
   221
   Cr
   1.3
   1.2
   1.2
   0.9
   1.3
   1.2
   0.9
   0.9
   Glucose
   30
   87
   113
   66
   113
   41
   51
   149
   191
   184
   Other labs: PT / PTT / INR:27.5/49.2/2.8, Differential-Neuts:93.0 %,
   Band:1.0 %, Lymph:1.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:280 mg/dL,
   Albumin:2.6 g/dL, LDH:598 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Imaging: No imaging today.
   Microbiology: BCx: NGTD
   UCx:  NGTD
   Sputum Cx:  contaminated
   Assessment and Plan
   73 yo M with h/o CHF, CKD, AF, and COPD presenting with fever,
   weakness, hypotension and persistent hypoglycemia in the setting of 8
   months of subacute/chronic decline characterized by weakness and
   recurrent falls.
   Shock:  Cardiogenic shock most likely.  Although EF is not
   significantly different from before, 3+ MR suggests that his cardiac
   output is probably very limited.
     -Will continue with dobutamine and lasix drip for now. Goal will be
   to diurese as aggressively as possible today to improve pulmonary edema
   for comfort.   Can use adjunctive diuril if needed. Will wean off
   dobutamine tonight so that we can assess his ability to go home
   tomorrow off of drips.
     -Goal to keep MAP about 60 for appropriate afterload.
     -Reasonable to continue empiric broad coverage with Vanc/Zosyn for
   now
     -Appreciate Dr.[**Name (NI) 7653**] input
   Hypoxemia:  Respiratory status limited by cardiogenic pulmonary edema,
   pleural effusions, and abdominal distention
     -Diuresis as above with lasix drip
     -Continue morphine PRN for comfort
   Elevated LFT's:  Concern for both congestive hepatopathy and now shock
   liver due to poor cardiac output. LFT's trending down with inotropes.
   Hypoglycemia:  Blood sugars now normal off sugar infusions.  Likely
   related to med effect/poor clearance.
   Anticoagulation:  Received Vitamin K yesterday, INR now therapeutic,
   will hold coumadin for now as he is an aspiration risk.
    Renal:  Maintaining reasonable GFR
     -Monitor urine output as above, goal is net negative today.
    AF:  Holding BB,  if HR becomes an issue with dobutamine will consider
   amiodarone.  Coumadin on hold for now.
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2179-03-07 16:54:00 Physician Resident Progress Note
Chief Complaint: Shock
   Sepsis
   Liver failure
   24 Hour Events:
   -- no major changes; remains on dobutamine/levophed & lasix drips
   -- had a difficult time getting him as negative as hoped for
   -- wife was around, but I didn't have a chance to talk to her b/c of
   very active afternoon; no change in course during day
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-6**] 07:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-6**] 10:00 PM
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2179-3-7**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-7**] 04:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 128 (125 - 137) bpm
   BP: 112/65(75) {101/44(59) - 125/73(82)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
    CVP: 15 (15 - 25)mmHg
   Total In:
                                                                  1,667 mL
                                                                    616 mL
   PO:
   TF:
   IVF:
                                                                  1,667 mL
                                                                    616 mL
   Blood products:
   Total out:
                                                                  1,995 mL
                                                                    655 mL
   Urine:
                                                                  1,995 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -328 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese, Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   221 K/uL
   9.1 g/dL
   184 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   22 mg/dL
   99 mEq/L
   133 mEq/L
   29.3 %
   15.0 K/uL
        [image002.jpg]
                             [**2179-3-3**]  01:11 AM
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
                             [**2179-3-5**]  04:50 AM
                             [**2179-3-6**]  03:43 AM
                             [**2179-3-7**]  02:23 AM
   WBC
   10.7
   10.9
   17.4
   22.6
   21.1
   17.8
   15.0
   Hct
   26.4
   27.6
   28.7
   30.7
   29.6
   28.9
   29.3
   Plt
   164
   172
   204
   266
   247
   216
   221
   Cr
   1.3
   1.2
   1.2
   0.9
   1.3
   1.2
   0.9
   0.9
   Glucose
   30
   87
   113
   66
   113
   41
   51
   149
   191
   184
   Other labs: PT / PTT / INR:27.5/49.2/2.8, ALT / AST:353/655, Alk Phos /
   T Bili:179/5.8, Differential-Neuts:93.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:280 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:2.6 g/dL, LDH:598 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR [**3-5**]:
   Significant interval worsening in the right lung consolidation has been
   demonstrated currently involving the right upper and right lower lobe.
   The
   patient also has interval developed some degree of pulmonary edema.
   Bibasilar
   consolidations have progressed. The heart size is big. Bilateral
   pleural
   effusions cannot be excluded.
   Microbiology: Blood 1/20- ngtd
   urine [**3-2**]-ngtd
   Assessment and Plan
   Patient is a 73 yoM with h/o CAD, systolic CHF (EF 20%), s/p pacer and
   ICD, presents with fever, hypoglycemia amd shock, possible sepsis.
   #. Shock: Etiology septic vs cardiogenic.  WBC elevated, although
   clinicial picture more consistent with cardiogenic shock.  Currently on
   both levophed and dobutamine.  Tachycardic on the dobutamine.  If
   sepsis, pulm source most likely, all other cultures have been
   negative.    Per fam mtg, pt prefers to be discharged home with
   hospice.
   -- continue to  cover potential pulm source with HAP PNA antibiotics
   (Vanc/Zosyn)
   -- blood cultures, urine cultures are unrevealing, sputum contaminated
   -- RRV panel negative for flu
   -- CT torso w/ contrast unrevealing for acute sepsis source or
   malignancy
   -- levophed now off, will try to wean dobutamine off overnight in
   preparation of discharge home with hospice
   -- random cortisol mid 20
s essentially rules out adrenal
   insufficiency, and TSH 3.5
   # Elevated LFTs: Acute rise in AST/ALT to 1000s, but then came down
   slightly. Ruled out for tylenol and viral etiologies. [**Month (only) 60**] be
   attributable to shock in the setting of sepsis.
   -- appreciate liver consult, f/u additional recs
   -- in setting of possible shock liver, on dobutamine gtt, but will wean
   given pt's goal of home with hospice
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**], [**Last Name (un) 5861**], AMA
   -- IgG, IgM WNL
   -- hepatitis serologies and iron studies negative
   -- Hyperbilirubinemia is largely direct, indicating hepatic dysfunction
   instead of hemolysis
   -- no evidence of EtOH abuse
   -- Prior RUQ U/S significant only for top-normal size spleen.
   -- received vitamin K with some improvement in INR
   # Hypoglycemia
 resolved. Likely was due to sepsis, but contributions
   from medication effect and poor hepatic/renal clearance of oral
   hypoglycemics vs. impaired hepatic gluconeogenesis are also possible.
   -- appreciate endocrine recs, likely from sepsis and prolonged effect
   of sulfonylureas
   -- off dextrose gtt
   -- continue prn amps of D50 for FSG <80
   -- f/u sulfonylurea level, C-peptide, insulin level
   # Microcytic Anemia: severely microcytic with MCV 68, with 62 nRBCs on
   diff. Recent Fe studies did not reveal iron deficiency. On that
   admission there was also no evidence of hemolysis.
   -- appreciate heme consult, working up for thalassemia given Italian
   heritage, f/u HgB electropheresis
   -- f/u HgB electrophoresis, SPEP WNL, f/u UPEP
   -- nRBCs persistently elevated but could be c/w stress reaction
   -- lead level WNL
   #. CRI - baseline Cr 1.1-1.5: Pt with Cr 1.4 on admission. A pre renal
   or ATN insult may develop given his hypotension, but currently there is
   no acute change.
   -- renally dose meds
   -- trend Cr
   -- GFR at baseline currently
   -- renal sono: no hydronephrosis
   #. CAD s/p MI: No evidence of ischemia on EKG. One set of enzymes were
   negative int he ED but pt never complained of any chest pain.
   -- CE negative x1.
   -- continue ASA, hold toprol and lisinopril
   -- d/c statin given LFTs
   -- monitor on telemetry
   #. chronic systolic CHF: does not appear to be in florid decompensated
   CHF at this time. He reported only mild SOB, and CXR did not reveal
   evidence of pulmonary edema
   -- echo shows EF 25% with 3+ MR [**First Name (Titles) **] [**Last Name (Titles) **]
   -- BNP 13.300, well above baseline
   -- on lasix gtt, support BP with dobutamine (although trying to wean)
   -- hold Toprol XL, lisinopril, given hypotension
   # HypoNa
 Improving, likely secondary to excessive hypotonic fluid
   administration; is total body overloaded
   -- will diurese as tolerated
   #. A-fib. Pt is rate controlled with metoprolol and anti-coagulated on
   coumadin. Pt also has a pacer for tachy/brady.
   -- holding coumadin, but INR still therapeutic
   -- holding BB for now given hypotension, can use IV prn if RVR
   # Type II DM: pt currently hypoglycemic
   -- hold oral hypoglycemics
   -- gentle sliding scale
   -- f/u sulfonylurea level, CPEP, insulin leves
   -- check A1c
   -- FSG QIDACHS, cover with ISS when hypoglycemia resolves
   # HTN: baseline SBP 100-110.
   -- hold all antihypertensives given sepsis  .
   # asthma/COPD:
   -- cont albuterol nebs
   # Gout -
   -- continue allopurinol
   #. FEN: Diabetic/ Cardiac; replete lytes prn
   #. Access:
   -- CV sepsis line
   #. PPx:
   -- coumadin, PPI, bowel regimen
   #. Code:
   -- DNR/DNI, has implanted ICD
   # Contact:
   -- Wife: [**Telephone/Fax (1) 7594**]
   -- PCP [**Known firstname 1626**] [**Last Name (NamePattern1) 3959**] via phone: [**0-0-**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2179-03-08 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Known lastname 7635**]
   - attempted diuresis with max dose lasix gtt and two doses of diuril
   - weaned off levophed
   - weaned dobutamine, still tachycardic
   - was hoping for home with hospice tomorrow --> wife called and says
   she can't handle him at home and perhaps [**Hospital 554**] hospice may be better.
   She would like to speak to CM and hospice about this option
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-6**] 10:00 PM
   Vancomycin - [**2179-3-7**] 08:00 PM
   Piperacillin - [**2179-3-7**] 10:00 PM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2179-3-8**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-8**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 125 (120 - 133) bpm
   BP: 95/63(67) {85/40(57) - 121/72(82)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
    CVP: 31 (15 - 33)mmHg
   Total In:
                                                                  1,503 mL
                                                                    157 mL
   PO:
   TF:
   IVF:
                                                                  1,503 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    560 mL
   Urine:
                                                                  1,865 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -362 mL
                                                                   -403 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Gen: patient is sedated and breathing comfortably
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   9.1 g/dL
   85 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   23 mg/dL
   97 mEq/L
   135 mEq/L
   29.4 %
   14.8 K/uL
         [image002.jpg]
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
                             [**2179-3-5**]  04:50 AM
                             [**2179-3-6**]  03:43 AM
                             [**2179-3-7**]  02:23 AM
                             [**2179-3-8**]  04:44 AM
   WBC
   10.7
   10.9
   17.4
   22.6
   21.1
   17.8
   15.0
   14.8
   Hct
   26.4
   27.6
   28.7
   30.7
   29.6
   28.9
   29.3
   29.4
   Plt
   164
   172
   204
   266
   247
   216
   221
   252
   Cr
   1.3
   1.2
   1.2
   0.9
   1.3
   1.2
   0.9
   0.9
   1.0
   Glucose
   87
   113
   66
   113
   41
   51
   149
   191
   184
   85
   Other labs: PT / PTT / INR:23.6/44.6/2.3, ALT / AST:215/204, Alk Phos /
   T Bili:157/9.9, Differential-Neuts:93.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:280 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:2.6 g/dL, LDH:598 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   This is a 73 yom with h/o CAD, systolic CHF (EF 20%) s/p pacer and ICD
   who was admitted for fever, hypoglycemia and shock.  Now transitioning
   to CMO
 COMFORT CARE (CMO, COMFORT MEASURES):  Several meetings have been
   done over the weekend and the final decision has been made to
   transition to CMO.  The wife initially wanted to take the husband home
   with home hospice, however, the wife called yesterday and admitted that
   she could not take care of her husband at home on her own.  Therefore,
   we will transition to inpatient hospice.   All unnecessary medications
   will be discontinued.  Focus will be on comfort care at this time.
   ICU Care
   Glycemic Control:  d/c FSBG, d/c insulin
   Lines:  CVL in place
   Presep Catheter - [**2179-3-2**] 11:52 PM
   Prophylaxis:
   DVT:  None
   Stress ulcer:  None
   VAP:  None
   Comments:
   Communication:  Comments:  with wife [**Telephone/Fax (1) 7594**].  PCP: [**Known firstname 1626**]
   [**Last Name (NamePattern1) 3959**] [**0-0-**].
   Code status: DNR/DNI
   Disposition: ICU

2179-03-08 09:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Dobutamine drip weaned off overnight.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Verapamil
   Nausea/Vomiting
   Salmeterol
   Cough;
   Tiotropium
   Cough;
   Nystatin
   redness
   pain;
   Tricor (Oral) (Fenofibrate Nanocrystallized)
   leg cramps
   ble
   Flovent Hfa (Inhalation) (Fluticasone Propionate)
   ankle swelling;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2179-3-6**] 10:00 PM
   Piperacillin - [**2179-3-7**] 10:00 PM
   Vancomycin - [**2179-3-8**] 08:10 AM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2179-3-8**] 08:10 AM
   Other medications:
   albuterol, ASA, allopurinol, MVI, omeprazole, iron, mesalamine, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-8**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 130 (120 - 131) bpm
   BP: 109/60(68) {85/40(57) - 119/71(80)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
   CVP: 31 (15 - 33)mmHg
   Total In:
                                                                  1,503 mL
                                                                    390 mL
   PO:
   TF:
   IVF:
                                                                  1,503 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    685 mL
   Urine:
                                                                  1,865 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -362 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : ), Tachypneic with
   labored breathing and diffuse wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   252 K/uL
   85 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   23 mg/dL
   97 mEq/L
   135 mEq/L
   29.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2179-3-3**]  10:44 AM
                             [**2179-3-3**]  11:40 AM
                             [**2179-3-3**]  11:45 AM
                             [**2179-3-3**]  07:41 PM
                             [**2179-3-3**]  07:51 PM
                             [**2179-3-4**]  03:56 AM
                             [**2179-3-5**]  04:50 AM
                             [**2179-3-6**]  03:43 AM
                             [**2179-3-7**]  02:23 AM
                             [**2179-3-8**]  04:44 AM
   WBC
   10.7
   10.9
   17.4
   22.6
   21.1
   17.8
   15.0
   14.8
   Hct
   26.4
   27.6
   28.7
   30.7
   29.6
   28.9
   29.3
   29.4
   Plt
   164
   172
   204
   266
   247
   216
   221
   252
   Cr
   1.3
   1.2
   1.2
   0.9
   1.3
   1.2
   0.9
   0.9
   1.0
   Glucose
   87
   113
   66
   113
   41
   51
   149
   191
   184
   85
   Other labs: PT / PTT / INR:23.6/44.6/2.3, ALT / AST:215/204, Alk Phos /
   T Bili:157/9.9, Differential-Neuts:93.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:280 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:2.6 g/dL, LDH:598 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Imaging: No new imaging
   Microbiology: No new micro
   Assessment and Plan
   73 yo M with h/o CHF, CKD, AF, and COPD presenting with fever,
   weakness, hypotension and persistent hypoglycemia in the setting of 8
   months of subacute/chronic decline characterized by weakness and
   recurrent falls.  [**Known firstname 1626**] unfortunately has declined since yesterday
   and is now increasingly unresponsive.  It will not be feasible to bring
   home with hospice at this point.  His wife understands this although is
   obviously upset.  She also has a history of anxiety and possible
   psychiatric illness and has needed contact with her therapist these
   past few days. We will transition his care to CMO while he is here.
   Social work and pastoral consultation are involved and will help to
   provide comfort to the family.  We will stop all other non-essential
   medications.
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2179-3-2**] 11:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI/CMO
   Disposition :ICU but transition to floor with private room for CMO.
   Wife will need close attention too as she is on the verge of
   decompensating emotionally
   Total time spent: 45 minutes